US07199244B2
Preparation III—7-cyano-4-chromanol
7-Cyano-4-chromanone (7.7 g, 44 mmol) was dissolved in THF (75 mL) and MeOH (150 mL), and cooled to 10° C. NaBH4 (1.9 g, 49 mmol) was added and the reaction was warmed to RT and stirred overnight (14 h). The reaction was quenched with acetone (5 mL) and 2 N HCl (100 mL) was added. The reaction was concentrated in vacuo to approximately 75 mL in volume and the reaction was partitioned between 2 N HCl (200 mL) and EtOAc (400 mL). The layers were separated and the aqueous layer was back extracted with EtOAc (200 mL). The organic layers were combined, washed successively with H2O (200 mL) and brine (200 mL). The solution was dried over MgSO4, filtered and concentrated in vacuo to provide the title compound which was used without further purification.

reactant | 7-Cyano-4-chromanone | 44 mmol, 7.7 g | C(#N)C1=CC=C2C(CCOC2=C1)=O | C10H7NO2
reactant | NaBH4 | 49 mmol, 1.9 g | [BH4-].[Na+]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | MeOH | 150 mL | CO | CH4O
product | 7-cyano-4-chromanol | C(#N)C1=CC=C2C(CCOC2=C1)O | C10H9NO2
